US04734418
Diethyl 2-(4-benzylpiperazino)-4,5-pyrimidinedicarboxylate
To absolute ethanol with 0.91 g of sodium dissolved therein, 11.5 g of 1-amidino-4-benzylpiperazine sulfate was added. The resultant mixture was stirred at room temperature for 30 minutes, to which 8.8 g of ethyl ethoxymethyleneoxaloacetate [synthesized by the process described in J. Am. Chem. Soc., 73, 3684 (1951)] was added. After allowing them to react at room temperature for 2 days, the reaction was caused to proceed further for 1 hour while heating the reaction mixture under reflux. After cooling the reaction mixture to room temperature, ethanol was distilled off under reduced pressure and the residue was dissolved in a mixture of water and ethyl acetate. After separation of the water layer, the ethyl acetate layer was washed with water and then with saturated saline. After drying the ethyl acetate layer with magnesium sulfate, ethyl acetate was distilled off under reduced pressure to obtain 13.7 g of the above-identified compound as light brown crystals (yield: 96%).

reactant | sodium | 0.91 g | [Na] | Na
reactant | 1-amidino-4-benzylpiperazine sulfate | 11.5 g | S(=O)(=O)(O)O.C(N)(=N)N1CCN(CC1)CC1=CC=CC=C1
reactant | ethyl ethoxymethyleneoxaloacetate | 8.8 g | C(C)OC=C(C(=O)OCC)C(=O)C(=O)O | C9H12O6
reactant | ethanol | C(C)O | C2H6O
product | Diethyl 2-(4-benzylpiperazino)-4,5-pyrimidinedicarboxylate | 13.7 g, yield: 96% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)C(=O)OCC)C(=O)OCC | C21H26N4O4
